US06399603B1
8-((1E)-2-(4-Methylphenyl)vinyl)-2-((3,4-dichlorophenyl)amino)-6-fluoroquinazolin-4-ol.
To a solution of 2-((3,4-dichlorophenyl)amino)-6-fluoro-8-iodoquinazolin-4-ol (45 mg) and palladium acetate (13.5 mg) in dimethylformamide (1.3 mL) was added 4-methylstyrene (26 μL), diisopropylethylamine (200 μL) and tri-o-tolylphosphine (12 mg). The resulting mixture was heated at 120° C. for 3 h. The mixture was then cooled to room temperature and the supernatant was removed by pipette from the settled black solids. The solvent and the excess volatile reagents were removed in vacuo, providing the crude product as a brown solid. This residue was triturated with 50% (v/v) methanol/dichloromethane (3 mL) and the resulting yellow solid was dried in vacuo to afford the title compound (25.1 mg). 1H NMR (300 MHz, DMSO-d6): δ11.24 (brs, 1H), 9.12 (brs, 1H), 8.59 (d, J=2.4 Hz, 1H), 8.04 (dd, J=3 & 10.2 Hz, 1H), 7.91 (d, J=16.8 Hz, 1H), 7.62-7.56 (m, 4H), 7.47 (d, J=16.8 Hz, 1H), 7.36 (dd, J=2.4 & 9 Hz, 1H), 7.31 (d, J=6 Hz, 2H), 2.34 (s, 3H). MS (APCI+): m/z 440.

reactant | 2-((3,4-dichlorophenyl)amino)-6-fluoro-8-iodoquinazolin-4-ol | 45 mg | ClC=1C=C(C=CC1Cl)NC1=NC2=C(C=C(C=C2C(=N1)O)F)I | C14H7Cl2FIN3O
reactant | 4-methylstyrene | 26 μL | CC1=CC=C(C=C)C=C1 | C9H10
reactant | diisopropylethylamine | 200 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tri-o-tolylphosphine | 12 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | dimethylformamide | 1.3 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 13.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 8-((1E)-2-(4-Methylphenyl)vinyl)-2-((3,4-dichlorophenyl)amino)-6-fluoroquinazolin-4-ol | 25.1 mg | CC1=CC=C(C=C1)/C=C/C=1C=C(C=C2C(=NC(=NC12)NC1=CC(=C(C=C1)Cl)Cl)O)F | C23H16Cl2FN3O
